US09120777B2
H) tert-Butyl 4-(3-ethyl-4-hydroxy-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate
10% palladium carbon (containing 55% water, 0.767 g) was added to an ethanol (30 mL) solution of tert-butyl 4-(4-(benzyloxy)-2-oxo-3-vinylpyridin-1(2H)-yl)piperidine-1-carboxylate (1.48 g), and the mixture was stirred at room temperature for 3 hours in a hydrogen atmosphere. The reaction mixture was filtered through celite, and then, the solvent in the filtrate was distilled off under reduced pressure. The obtained residue was passed through a silica gel, and then, the solvent was distilled off under reduced pressure to obtain the title compound (1.12 g).

reactant | tert-butyl 4-(4-(benzyloxy)-2-oxo-3-vinylpyridin-1(2H)-yl)piperidine-1-carboxylate | 1.48 g | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)C=C | C24H30N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.767 g | [C].[Pd]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | tert-Butyl 4-(3-ethyl-4-hydroxy-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate | 1.12 g | C(C)C=1C(N(C=CC1O)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C17H26N2O4
